US05047411
The mixture of 2-amino-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzothiazole (2.3 g) and boron tribromide (6.4 ml) in dichloromethane (115 ml) was stirred for 20 hours at ambient temperature and the solvent was evaporated in vacuo. A mixture of obtained residue and water was adjusted to pH 7.5 with 20% potassium carbonate aqueous solution and resulting precipitate was collected by filtration and dried. The residue was purified by alumina column chromatography eluting with a solution of chloroform and methanol (4:1, V/V). The fractions containing object compound were concentrated in vacuo. To a mixture of obtained residue and ethanol (3 ml) was added conc. hydrochloric acid (0.2 ml) and the mixture was stirred for 30 minutes at ambient temperature. The resulting precipitate was collected by filtration and dried to give 2-amino-6-[2-(7-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzothiazole dihydrochloride (0.22 g).

reactant | 2-amino-6-[2-(7-methoxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzothiazole | 2.3 g | NC=1SC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)OC)C2C | C18H18N4OS
reactant | boron tribromide | 6.4 ml | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 115 ml | ClCCl | CH2Cl2
product | 2-amino-6-[2-(7-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)ethyl]benzothiazole dihydrochloride | 0.22 g | Cl.Cl.NC=1SC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)O)C2C | InChI=1S/C17H16N4OS.2ClH/c1-10-13(19-16-9-12(22)6-7-21(10)16)4-2-11-3-5-14-15(8-11)23-17(18)20-14;;/h3,5-9,22H,2,4H2,1H3,(H2,18,20);2*1H
